US05773428
To (3R,9S)-6-[4-hydroxyphenyl]-3-[8-oxo-4-oxa-1,7-diazatricyclo[9.6.1.012,17 ]octadeca-11(18),12,14,16-tetraen-9-ylcarbamoyl)-hexanoic acid t-butyl ester (1.0 g, 1.72 mmol) in DMF (20 mL) at 0° C. was added 3-iodopropanol(363mg, 1.95 mmol) and cesium carbonate (636 mg, 1.95 mmol). The mixture was then stirred at room temperature for 2.5 hours. DMF was removed under reduced pressure. The remaining residue was taken up in EtOAc (70 mL) and brine (40 mL). The EtOAc layer was washed with brine and dried (MgSO,). Removal of solvents to give pure (3R,9S)-6-[4-(3-hydroxy-propoxy)-phenyl]-3-[8-oxo-4-oxa-1,7-diazatricyclo[9.6.1.012,17 ]octadeca-11(18),12,14,16-tetraen-9-ylcarbamoyl)-hexanoic acid t-butyl ester (1.1 g, 100%), MS: 622.4 (M+H+).

reactant | (3R,9S)-6-[4-hydroxyphenyl]-3-[8-oxo-4-oxa-1,7-diazatricyclo[9.6.1.012,17 ]octadeca-11(18),12,14,16-tetraen-9-ylcarbamoyl)-hexanoic acid t-butyl ester | 1.72 mmol, 1.0 g | C(C)(C)(C)OC(C[C@@H](CCCC1=CC=C(C=C1)O)C(N[C@@H]1C(NCCOCCN2C3=CC=CC=C3C(C1)=C2)=O)=O)=O | C32H41N3O6
reactant | 3-iodopropanol | 1.95 mmol, 363mg | ICCCO | C3H7IO
reactant | cesium carbonate | 1.95 mmol, 636 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (3R,9S)-6-[4-(3-hydroxy-propoxy)-phenyl]-3-[8-oxo-4-oxa-1,7-diazatricyclo[9.6.1.012,17 ]octadeca-11(18),12,14,16-tetraen-9-ylcarbamoyl)-hexanoic acid t-butyl ester | 1.1 g, 100% | C(C)(C)(C)OC(C[C@@H](CCCC1=CC=C(C=C1)OCCCO)C(N[C@@H]1C(NCCOCCN2C3=CC=CC=C3C(C1)=C2)=O)=O)=O | C35H47N3O7
